US07301036B2
Step A. 4,5-dichloro-N-methyl-2-nitroaniline
To a solution of 4,5-dichloro-2-nitroaniline (10 mmol, 2.07 g) in DMF (10 mL) was added NaH (12 mmol, 480 mg of 60% suspension in mineral oil) (exothermic, gas evolution). After 15 min MeI (20 mmol, 1.2 mL) was added. The reaction mixture was allowed to stand at ambient temperature for 1 h, then poured into a solution of saturated NaHCO3 and brine, affording the product as an orange precipitate, which was filtered, washed with water and dried in vacuo. 1H NMR (500 MHz, d6-DMSO) δ 8.27 (m, 1H), 8.22 (s, 1H), 7.25 (s, 1H), 2.96 (d, J=4.9 Hz, 3H).

reactant | 4,5-dichloro-2-nitroaniline | 10 mmol, 2.07 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | NaH | 12 mmol, 480 mg | [H-].[Na+]
reactant | MeI | 20 mmol, 1.2 mL | CI | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4,5-dichloro-N-methyl-2-nitroaniline | ClC1=CC(=C(NC)C=C1Cl)[N+](=O)[O-] | C7H6Cl2N2O2
